US04554275
Five grams of 2-hydroxy-3-naphthoic acid was dissolved in 220 ml of dimethyl formamide, 3.74 grams of sodium hydride was added thereto little by little with ice cooling and stirring, then 11.0 grams of methyl iodide was added, and the mixture was stirred at room temperature for twelve hours. The reaction solution was partitioned between benzene and water, the benzene layer was collected, dried over anhydrous magnesium sulfate, the solvent was evaporated therefrom, and the residue was dried. To this were added 10 ml of water, 90 ml of methyl cellosolve and 5.0 grams of potassium hydroxide, the mixture was heated to reflux for forty minutes with stirring, the reaction solution was poured over ice water, the mixture was acidified with diluted hydrochloric acid, and the separated mass was extracted with ethyl acetate. The ethyl acetate extract was dried over anhydrous magnesium sulfate, the solvent was evaporated therefrom, and the residue was crystallized from n-hexane to afford 2-methoxy-3-naphthoic acid. The yield was 4.62 grams.

reactant | 2-hydroxy-3-naphthoic acid | Five grams | OC1=CC2=CC=CC=C2C=C1C(=O)O | C11H8O3
reactant | sodium hydride | 3.74 grams | [H-].[Na+]
reactant | methyl iodide | 11.0 grams | CI | CH3I
solvent | dimethyl formamide | 220 ml | CN(C=O)C | C3H7NO
product | 2-methoxy-3-naphthoic acid | COC1=CC2=CC=CC=C2C=C1C(=O)O | C12H10O3
